US04066648
To a mixture of 20 g of 2,3-dimethoxyphenethyl alcohol and 22 g of β-chloropropionaldehyde diethyl acetal was added 30 ml of concentrated hydrochloric acid, followed by heating at 60°-85° C with stirring for 25 minutes. After cooling, the reaction mixture was diluted with 100 ml of water and extracted with ethyl acetate. The extract was rinsed with water, dehydrated, treated with activated carbon and concentrated under reduced pressure. By the above procedure was obtained 24 g of 1-(2-chloroethyl)-5,6-dimethoxyisochroman as a colorless oil. Together with 15 ml of piperidine, 3 of this oil was heated under reflux for 2 hours, with constant stirring. After cooling, the reaction mixture was concentrated and the residue was diluted with 100 ml of water and extracted with ethyl acetate. The extract was rinsed with water, dried and concentrated under reduced pressure. The oily residue was chromatographed on a column of silica gel, elution being carried out with a 9:1 mixture of chloroform and methanol. By this procedure was obtained 2.7 g of 5,6-dimethoxy-1-(2-piperidinoethyl)isochroman as an oil. This oil was dissolved in 10 ml of alcoholic hydrochloric acid, followed by addition of ethyl ether. The mixture was left standing, whereby 1.5 g of 5,6-dimethoxy-1-(2-piperidinoethyl)-isochroman hydrochloride was obtained as colorless crystals, melting point: 178°-180° C.

reactant | 2,3-dimethoxyphenethyl alcohol | 20 g | COC1=C(CCO)C=CC=C1OC | C10H14O3
reactant | β-chloropropionaldehyde diethyl acetal | 22 g | C(C)OC(CCCl)OCC | C7H15ClO2
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 1-(2-chloroethyl)-5,6-dimethoxyisochroman | 24 g | ClCCC1OCCC2=C(C(=CC=C12)OC)OC | C13H17ClO3
